US04707488
A: O-Methyl-3,5-dichlorobenzaldoxime
A solution of 3,5-dichlorobenzaldehyde (0.0571 mol) and methoxyamine hydrochloride (0.0629 mol) in ethanol (50 ml) and pyridine (50 ml) was stirred 18 hours at room temperature. The reaction was concentrated and partitioned between methylene chloride and water. The organic phase was washed with 3N aqueous hydrogen chloride, dried over sodium sulfate and was concentrated to yield 10.9 g (94%) white solid, mp 53°.

reactant | 3,5-dichlorobenzaldehyde | 0.0571 mol | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | methoxyamine hydrochloride | 0.0629 mol | Cl.CON
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | O-Methyl-3,5-dichlorobenzaldoxime | 10.9 g, 94% | CON=CC1=CC(=CC(=C1)Cl)Cl | C8H7Cl2NO
